US06982348B2
To a solution of 6-chloro-2-pyridinecarboxylic acid (10 g, 63.5 mmol) in tetrahydrofuran (150 ml) was added 1,1′-carbonylbis-1H-imidazole (11.3 g, 69.8 mmol), and the mixture was heated under reflux for 30 min. The reaction solution was cooled, and monoethyl malonate magnesium salt (10 g, 34.9 mmol) was added. The mixture was stirred at room temperature for 30 min. To the reaction solution was added water (200 ml) and the mixture was extracted with ethyl acetate (200 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl-acetate=4:1) to give ethyl 3-(6-chloro-2-pyridyl)-3-oxopropionate (7.96 g, 55%) as a brown oil. IR ν maxKBrcm−1: 1738, 1713, 1651, 1645. Anal. Calcd for C10H10NO3Cl: C, 52.76; H, 4.43; N, 6.15. Found: C, 52.63; H, 4.55; N, 6.02. 1H-NMR (CDCl3)δ: 1.20-1.40 (3H, m), 4.15 (2H×2/3, s), 4.14-4.32 (2H, m), 6.35 (1H×1/3, s), 7.37 (1H×1/3, d, J=6.6 Hz), 7.53 (1H×2/3, d, J=7.0 Hz), 7.70-8.02 (2H, m), 12.31 (1H×1/3, s).

reactant | 6-chloro-2-pyridinecarboxylic acid | 63.5 mmol, 10 g | ClC1=CC=CC(=N1)C(=O)O | C6H4ClNO2
reactant | 1,1′-carbonylbis-1H-imidazole | 69.8 mmol, 11.3 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | monoethyl malonate magnesium salt | 34.9 mmol, 10 g | [Mg+].C(CC(=O)[O-])(=O)OCC
reactant | water | 200 ml | O | H2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | ethyl 3-(6-chloro-2-pyridyl)-3-oxopropionate | 7.96 g, 55% | ClC1=CC=CC(=N1)C(CC(=O)OCC)=O | C10H10ClNO3
